US04539422
The crude 5-(isobutoxycarbonyl)-1H-tetrazole-1-acetic acid, ethyl ester prepared above was treated with 37.5 ml. (0.45 moles) of concentrated hydrochloric acid and 37.5 ml. of water in a 250 ml. 3-neck round bottom flask. The reaction mixture was heated to reflux, and the alcohols liberated as by-products of the reaction were allowed to distill out and carbon dioxide was permitted to evolve. Water was added as required during the reaction to maintain the volume in the flask at approximately 110 ml. When the distillation of the alcohols had ended, the mixture was treated with approximately 1 ml. of nitric acid to decolorize the solution. The solution was then cooled to approximately 70° C. and treated with charcoal. The solution was stirred for approximately 20 minutes and filtered hot into a clean 250 ml. 3-neck round bottom flask, washing with a minimum of water. The volume of the solution was reduced to approximately 120 ml. by distillation in vacuo and the mixture cooled. The precipitated solid was collected by filtration to afford 46.48 grams (98.1% pure) of 1H-tetrazole-1-acetic acid (m.p. 128.5°-130° C.). The overall yield of the synthesis from ethyl chloroacetate was 80.6% in the first cycle. When the 1H-tetrazole-1-acetic acid mother liquor was used as the solvent for the hydrolysis reaction in subsequent batches, the average yield of product over 9 cycles was 93.1%, with an average assay of 98.5% purity. The mother liquor was discarded after 9 cycles due to the salt accumulation.

reactant | 5-(isobutoxycarbonyl)-1H-tetrazole-1-acetic acid, ethyl ester | C(C(C)C)OC(=O)C1=NN=NN1CC(=O)OCC | C10H16N4O4
reactant | hydrochloric acid | 0.45 moles | Cl | ClH
solvent | water | O | H2O
product | 1H-tetrazole-1-acetic acid | 46.48 grams, 98.1% | N1(N=NN=C1)CC(=O)O | C3H4N4O2
